US07217697B2
3-Benzyloxy-1-(2-hydroxyethyl)-5-isopropyl-1H-pyrazole
2-Hydroxyethylhydrazine (1.90 g) was added to a solution of O-Benzyl 4-methyl-3-oxothiopentanoate (5.90 g) and triethylamine (5.05 g) in acetonitrile (60 mL), and the mixture was stirred at room temperature for 3 hours. The reaction mixture was poured into water, and the mixture was extracted with diethyl ether. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=1/1) to give the title compound (5.90 g).

reactant | 2-Hydroxyethylhydrazine | 1.90 g | OCCNN | C2H8N2O
reactant | O-Benzyl 4-methyl-3-oxothiopentanoate | 5.90 g | CC(C(CC(=S)OCC1=CC=CC=C1)=O)C | C13H16O2S
reactant | triethylamine | 5.05 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
product | 3-Benzyloxy-1-(2-hydroxyethyl)-5-isopropyl-1H-pyrazole | 5.90 g | C(C1=CC=CC=C1)OC1=NN(C(=C1)C(C)C)CCO | C15H20N2O2
